US04945099
1-{4-[(5-Aminopentyl)oxy]-5-ethyl-2-hydroxyphenyl}ethanone
A mixture of 2.0 g of 5-(4-acetyl-2-ethyl-5-hydroxyphenoxy)pentanenitrile, 50 ml of acetic acid, and 2.0 g of 10% palladium on carbon were subjected to on for approximately 2 hours. The mixture was then filtered and concentrated in vacuo. The residue was triturated with diethyl ether to provide 2 g of the desired title product, m.p.=75°-76° C. NMR.

reactant | 5-(4-acetyl-2-ethyl-5-hydroxyphenoxy)pentanenitrile | 2.0 g | C(C)(=O)C1=CC(=C(OCCCCC#N)C=C1O)CC | C15H19NO3
catalyst | palladium on carbon | 2.0 g | [Pd] | Pd
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 1-{4-[(5-Aminopentyl)oxy]-5-ethyl-2-hydroxyphenyl}ethanone | 2 g | NCCCCCOC1=CC(=C(C=C1CC)C(C)=O)O | C15H23NO3
